US03931151
2.2 g of lithium aluminum hydride were added in small fractions to a solution of 9 g of 2-ethylthio-5-methyl-11-dimethylcarbamoylmethyl [5H] dibenzo (b,f) azepine in 270 ml of tetrahydrofuran while keeping the temperature below 30°C and the mixture was stirred for 2 hours at room temperature and was cooled to 0°C. Ethyl acetate was added to the mixture followed by a 2N sodium hydroxide solution to dissociate the precipitate formed. The insolubles were removed by filtration and the organic phase was recovered by decanting. The aqueous phase was extracted with ethyl acetate and the combined organic phases were washed with water, dried over magnesium sulfate and evaporated to dryness. The residue was chromatographed over silica gel with a 60-30-10 mixture of cyclohexane-chloroform-triethylamine as eluant which was evaporated to obtain 7.1 g of raw 2-ethylthio-5-methyl-11-(β-dimethylamino ethyl) [5H] dibenzo (b,f) azepine.

reactant | lithium aluminum hydride | 2.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-ethylthio-5-methyl-11-dimethylcarbamoylmethyl [5H] dibenzo (b,f) azepine | 9 g | C(C)SC1=CC2=C(N(C3=C(C=C2CC(N(C)C)=O)C=CC=C3)C)C=C1 | C21H24N2OS
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 270 ml | O1CCCC1 | C4H8O
product | 2-ethylthio-5-methyl-11-(β-dimethylamino ethyl) [5H] dibenzo (b,f) azepine | 7.1 g | C(C)SC1=CC2=C(N(C3=C(C=C2CCN(C)C)C=CC=C3)C)C=C1 | C21H26N2S
